US06329366B1
Ethanethiol (6.11 ml, 0.082 mol) was added slowly to a suspension of sodium hydride (3.3 g, 60% dispersion) in dry dimethylformamide (225 ml) at room temperature under a nitrogen atmosphere. The reaction mixture was stirred for 15 min before the addition of 1-chloro-4-nitrobenzene (10 g, 0.063 mol) dissolved in dry dimethylformamide (25 ml). After addition, the resultant mixture was allowed to warm to 60° C. and was stirred for 24 hr. The mixture was then concentrated in vacuo to yield a yellow oil. Ice and water were added and a yellow solid was precipitated and filtered off. The solid was then dissolved in methanol (100 ml) and insoluble by-products were isolated by filtration. The filtrate was then concentrated in vacuo. The residue was dissolved in ethyl acetate (50 ml) and washed with water (2×50 ml). The organic layer was then dried (MgSO4) and concentrated in vacuo to afford 1-(ethylthio)-4-nitrobenzene as a yellow solid. δ(1H NMR, DMSO, ppm): 1.15 (3H, t), 3.05 (2H, q) 7.45 (2H, d), 8.10 (2H, d)

reactant | Ethanethiol | 0.082 mol, 6.11 ml | C(C)S | C2H6S
reactant | sodium hydride | 3.3 g | [H-].[Na+]
reactant | 1-chloro-4-nitrobenzene | 0.063 mol, 10 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | 225 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-(ethylthio)-4-nitrobenzene | C(C)SC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO2S
